US09315864B2
Synthesis of 2,3,3-trimethyl-3H-thieno[2,3-g]indole-5-carboxylic acid CD:
A solution of 4-hydrazinyl-1-benzothiophene-7-carboxylic acid CC (208 mg, 1.0 mmole) and methyl isopropyl ketone (457 mg, 5.3 mmole) in 5 mL HOAc was heated at 120° C. for 1.5 hr and cooled down to 25° C. HOAc was removed in vacuo the product was purified with CombiFlash silica gel column chromatography (eluted with CH2Cl2/MeOH stepping gradient 100:0 to 80:20). The yield of the desired product CD was 210 mg (81%).

reactant | 4-hydrazinyl-1-benzothiophene-7-carboxylic acid | N(N)C1=CC=C(C2=C1C=CS2)C(=O)O | C9H8N2O2S
reactant | methyl isopropyl ketone | 5.3 mmole, 457 mg | C(C)(C)C(=O)C | C5H10O
solvent | HOAc | 5 mL | CC(=O)O | C2H4O2
product | 2,3,3-trimethyl-3H-thieno[2,3-g]indole-5-carboxylic acid | CC1=NC2=C3C(=C(C=C2C1(C)C)C(=O)O)SC=C3 | C14H13NO2S
